US04629781
Preparation of deglucoteicoplanin from teicoplanin complex
2.5 g of teicoplanin complex (i.e. the antibiotic complex containing teichomycin factors A1, A2 and A3, as obtained by fermentation of strain ATCC 31121 according to U.S. Pat. No. 4,239,751, the water content determined by Karl-Fischer method is 13.5% by weight) is suspended in 50 ml of trichloroethanol and the mixture is stirred at 90° C. for 12 hours while continuously bubbling anhydrous hydrogen chloride. The reaction mixture is then worked up as in Example 11 yielding 700 mg of substantially pure deglucoteicoplanin.

reactant | teichomycin | CCCCCCCCCC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1OC2=C3C=C4C=C2OC5=C(C=C(C=C5)[C@H]([C@H]6C(=O)N[C@H](C7=CC(=CC(=C7C8=C(C=CC(=C8)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)O)OC1=C(C=CC(=C1)[C@H](C(=O)N[C@H](CC1=CC(=C(O3)C=C1)Cl)C(=O)N9)N)O)O)O[C@@H]1[C@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)NC(=O)C)Cl)CO)O)O | C88H97Cl2N9O33
reactant | water | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | trichloroethanol | 50 ml | C(C(Cl)Cl)(O)Cl | C2H3Cl3O
product | teicoplanin | CC(=O)N[C@H]1[C@H]([C@@H]([C@@H](O[C@H]1OC2=C3C=C4C=C2OC=5C=CC(=CC5Cl)[C@H]([C@H]6C(=O)N[C@@H](C=7C=C(C=C(C7C=8C=C(C=CC8O)[C@H](C(=O)N6)NC(=O)[C@@H]4NC(=O)[C@@H]9C1=CC(=CC(=C1)OC=1C=C(C=CC1O)[C@H](C(=O)N[C@H](CC=1C=CC(=C(C1)Cl)O3)C(=O)N9)N)O)O[C@@H]1[C@H]([C@@H]([C@@H]([C@H](O1)CO)O)O)O)O)C(=O)O)O[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)CO)O)O)NC(=O)C)CO)O)O | C80H81Cl2N9O33
